US09303045B2
Step 2: 1-(1-methyl-1H-imidazol-5-yl)-1H-indole-3-carboxylic acid
A solution of methyl 1-(1-methyl-1H-imidazol-5-yl)-1H-indole-3-carboxylate (40 mg, 0.157 mmol) in THF (1567 μl) was treated with potassium trimethylsilanolate (223 mg, 1.567 mmol) in one portion at RT and the resulting reaction mixture stirred overnight. ISCO purification (10% MeOH/DCM) afforded the title compound as a white solid.

reactant | methyl 1-(1-methyl-1H-imidazol-5-yl)-1H-indole-3-carboxylate | 0.157 mmol, 40 mg | CN1C=NC=C1N1C=C(C2=CC=CC=C12)C(=O)OC | C14H13N3O2
reactant | potassium trimethylsilanolate | 1.567 mmol, 223 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 1567 μl | C1CCOC1 | C4H8O
product | 1-(1-methyl-1H-imidazol-5-yl)-1H-indole-3-carboxylic acid | CN1C=NC=C1N1C=C(C2=CC=CC=C12)C(=O)O | C13H11N3O2
